US07820699B2
39.3 To a cooled (0° C.), stirred suspension of 44 mg potassium tert-butylate in 3 ml THF under an argon atmosphere were added 149 mg methyltriphenylphosphonium bromide. The yellow slurry was then stirred for 1 h 30, slowly warming up to room temperature. A solution of 100 mg {(S)-3-[(5-chloro-thiophene-2-carbonyl)-amino]-4-oxo-pyrrolidin-1-yl}-acetic acid ethyl ester in 2 ml THF was then added. The mixture was heated to reflux and stirred for 2 hrs. The mixture (dark brown slurry) was cooled to r.t., diluted with EtOAc, washed with sat. aq. NH4C1, H2O and brine, dried over MgSO4, filtered and concentrated. The crude product was purified by column chromatography (silica gel, gradient: CH2Cl2->CH2Cl2/MeOH 95:5) to give 76 mg {(R)-3-[(5-chloro-thiophene-2-carbonyl)-amino]-4-methylene-pyrrolidin-1-yl}-acetic acid ethyl ester (contaminated with 43 w % triphenylphosphin oxide). Amorphous gum. MS 329.0 ([M+H]+)

reactant | potassium tert-butylate | 44 mg | CC(C)(C)[O-].[K+]
reactant | {(S)-3-[(5-chloro-thiophene-2-carbonyl)-amino]-4-oxo-pyrrolidin-1-yl}-acetic acid ethyl ester | 100 mg | C(C)OC(CN1C[C@@H](C(C1)=O)NC(=O)C=1SC(=CC1)Cl)=O | C13H15ClN2O4S
solvent | THF | 3 ml | C1CCOC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 149 mg | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {(R)-3-[(5-chloro-thiophene-2-carbonyl)-amino]-4-methylene-pyrrolidin-1-yl}-acetic acid ethyl ester | 76 mg | C(C)OC(CN1C[C@@H](C(C1)=C)NC(=O)C=1SC(=CC1)Cl)=O | C14H17ClN2O3S
